US08183246B2
6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}hexanoic acid
Dissolve 103 mg (0.224 mmol) 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-hexanoic acid ethyl ester in 2 ml THF and, at RT, add 2.2 ml of 1 N sodium hydroxide solution. Stir the mixture overnight, then neutralize with 1 N hydrochloric acid and concentrate by vacuum evaporation. Purify the residue by preparative RP-HPLC. 23.2 mg (24% of theor.) of the target compound is obtained.

reactant | 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-hexanoic acid ethyl ester | 0.224 mmol, 103 mg | C(C)OC(CCCCCOC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)=O | C27H28N2O5
reactant | sodium hydroxide | 1 N, 2.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}hexanoic acid | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCCCCCC(=O)O)C2=CC=CC=C2 | C25H24N2O5
